US05977105
b) 3'-Cyanobiphenyl-4-ol
A solution of boron tribromide (1.0 M in dichloromethane, 38 ml) was added to a solution of 3'-cyano-4-methoxybiphenyl (4.0 g) in dichloromethane (150 ml) at -78 ° C. After the addition was complete the solution was allowed to warm to room temperature and was stirred for 18 hours. The solution was cooled to 0° C. and then ice (100 g) was added. The organic layer was separated and the aqueous phase extracted with ethyl acetate (3×100 ml). The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the sub-title compound as a cream solid (3.18 g).

reactant | boron tribromide | 1.0 M, 38 ml | B(Br)(Br)Br | BBr3
reactant | 3'-cyano-4-methoxybiphenyl | 4.0 g | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)OC | C14H11NO
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3'-Cyanobiphenyl-4-ol | 3.18 g | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)O | C13H9NO
